US07465726B2
4-{4-[3-Chloro-5-(4-methylpiperazin-1-yl)-phenyl-amino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butylamide
A mixture of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (88.0 mg, 0.263 mmol), 3-chloro-5-(4-methylpiperazin-1-yl)-phenylamine (71.2 mg, 0.316 mmol), trifluoroacetic acid (243 μL, 3.16 mmol), and DMF (2 mL) was stirred in a sealed tube at 80° C. for 16 h. After cooling, N,N-diisopropylethylamine (550 μL, 3.16 mmol) was added, and the mixture turned into a dark clear solution. Into above solution was added tert-butyl isocyanate (36.0 μL, 0.316 mmol) and the solution was stirring at rt for 1 h. After that time, the mixture was concentrated in vacuo to obtain dark-brown oil that was submitted for MS-directed purification to obtain a light-brown oil. Further purification by HPLC gave the title compound as an off-white powder. 1H NMR (DMSO-d6, 400 MHz): δ=1.29 (s, 9H), 2.23 (s, 3H), 2.46 (t, 4H, J=4.6 Hz), 3.18 (t, 4H, J=4.8 Hz), 3.53 (t, 2H, J=5.4 Hz), 4.00 (brs, 2H), 5.79 (s, 1H), 6.43 (s, 1H), 6.63 (d, 1H, J=1.6 Hz), 6.78 (s 1H), 7.30 (s, 1H), 7.75 (d, 1H, J=1.6 Hz), 8.32 (s, 1H), 9.27 (s, 1H), 11.98 (s, 1H). MS (ES+): m/z 522.98/525.01(100/33) [MH+]. HPLC: tR=2.13 min (ZQ2000, polar—5 min).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.263 mmol, 88.0 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 3-chloro-5-(4-methylpiperazin-1-yl)-phenylamine | 0.316 mmol, 71.2 mg | ClC=1C=C(C=C(C1)N1CCN(CC1)C)N | C11H16ClN3
reactant | trifluoroacetic acid | 3.16 mmol, 243 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N,N-diisopropylethylamine | 3.16 mmol, 550 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butyl isocyanate | 0.316 mmol, 36.0 μL | C(C)(C)(C)N=C=O | C5H9NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-{4-[3-Chloro-5-(4-methylpiperazin-1-yl)-phenyl-amino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC2=CC(=CC(=C2)N2CCN(CC2)C)Cl)N1 | C27H35ClN8O
